US04755511
A mixture of 6-cyano-2-methyl-1-oxo-1,2,3,4-tetrahydro-2-naphthyl acetic acid (3.5 g), hydrazine hydrate (20 ml), acetic acid (20 ml) and water (40 ml) was stirred under reflux for 4 hours. The reaction mixture was cooled and the precipitated solid filtered off. Recrystallisation from DMF/ethanol gave 8-cyano-4a-methyl-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3[2H]-one (2.5 g; m.p.>300°); ν(Nujol mull) 3315, 3210, 2214, 1675, 1635, 1615, 1590 and 844 cm-1 ; δ(DMSO-d6) 1.06, (3H,s,CH3), 1.80 (2H,m,5-H) 2.40 (2H,m,4-H), 2.92 (2H,m,6-H), 7.61 (1H,m,9-H), 7.70 (1H, s, 7-H), 8.13 (1H,d,10-H), 11.05 (1H,s,NH).

reactant | 6-cyano-2-methyl-1-oxo-1,2,3,4-tetrahydro-2-naphthyl acetic acid | 3.5 g | C(#N)C=1C=C2CCC(C(C2=CC1)=O)(C)CC(=O)O | C14H13NO3
reactant | hydrazine hydrate | 20 ml | O.NN
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
product | 8-cyano-4a-methyl-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3[2H]-one | 2.5 g | C(#N)C=1C=CC2=C(CCC3(CC(NN=C23)=O)C)C1 | C14H13N3O
